US07365095B2
To a solution of (R)-2-azidomethyl-8-(2-methoxyphenyl)-6-fluoro-chroman (190 mg, 0.32 mmol) in tetrahydrofuran (10 mL) and water (0.5 mL) was added triphenylphosphine (0.26 g, 10 mmol) and the reaction mixture stirred at room temperature for 24 hours. The solvent was removed under vacuum to form a colorless oil. Chromatography with 0–5% methanol in methylene chloride plus 1% NH4OH afforded {[(R)-8-(2-methoxyphenyl)-6-fluoro-2H-chromen-2-yl]methyl}amine as a colorless oil. The colorless oil was dissolved in ethyl acetate and made into its hydrochloride salt (119 mg, 61%) as an off-white crystalline solid, mp 198–200° C.; [α]D25=+173.89° (c=5.2 mg/0.7mL MeOH).

reactant | (R)-2-azidomethyl-8-(2-methoxyphenyl)-6-fluoro-chroman | 0.32 mmol, 190 mg | N(=[N+]=[N-])C[C@@H]1OC2=C(C=C(C=C2CC1)F)C1=C(C=CC=C1)OC | C17H16FN3O2
reactant | triphenylphosphine | 10 mmol, 0.26 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | methanol | CO | CH4O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | water | 0.5 mL | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | NH4OH | [NH4+].[OH-]
product | {[(R)-8-(2-methoxyphenyl)-6-fluoro-2H-chromen-2-yl]methyl}amine | COC1=C(C=CC=C1)C=1C=C(C=C2C=C[C@@H](OC12)CN)F | C17H16FNO2
